US05116979
3 g of dihydrocaffeic acid was dissolved in 20 ml of pyridine, and 5 g of benzoyl chloride was then gradually added thereto under cooling. After stirring at room temperature for 2 hours, the solvent was distilled off, and the resultant residue was then poured into 50 ml of ice water. This solution was neutralized with 6N hydrochloric acid and then extracted with 50 ml of chloroform twice. After washed with a saturated saline solution, the extracted material was dried over Glauber's salt, and the solvent was then distilled off under reduced pressure, thereby obtaining 6.8 g of 3-(3,4-dibenzoyloxyphenyl)propionic acid.

reactant | dihydrocaffeic acid | 3 g | C(CCC1=CC(O)=C(O)C=C1)(=O)O | C9H10O4
reactant | benzoyl chloride | 5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3,4-dibenzoyloxyphenyl)propionic acid | 6.8 g | C(C1=CC=CC=C1)(=O)OC=1C=C(C=CC1OC(C1=CC=CC=C1)=O)CCC(=O)O | C23H18O6
